US05660598
N-Ethyl-N-(1-methylhexyl)aniline was prepared from N-ethylaniline and 2-bromoheptane using the same method as in Example 3i).

reactant | N-ethylaniline | C(C)NC1=CC=CC=C1 | C8H11N
reactant | 2-bromoheptane | BrC(C)CCCCC | C7H15Br
product | N-Ethyl-N-(1-methylhexyl)aniline | C(C)N(C1=CC=CC=C1)C(CCCCC)C | C15H25N
